US07737167B2
N-(Benzimidazol-2-yl)-indanylamine
The title compound was prepared from 2-chlorobenzimidazole and racemic 1-aminoindane by Procedure A (15 min at 200° C.). The product was isolated by preparative LCMS to give the title compound as the free base and as a mixture of enantiomers (white solid, mp 195.5-197° C.). MS(ES+) m/z 250 ([M+1]+, 100). 1NMR (DMSO-d6) δ 1.90 (m, 1 H), 2.55 (m, 1 H), 2.83 (m, 1 H), 2.95 (m, 1 H), 5.36 (m, 1 H), 6.82-6.97 (m, 3H), 7.11-7.31 (m, 6H), 10.70 (s, 1H).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | racemic 1-aminoindane | NC1CCC2=CC=CC=C12 | C9H11N
product | N-(Benzimidazol-2-yl)-indanylamine | N1=C(NC2=C1C=CC=C2)NC2CCC1=CC=CC=C21 | C16H15N3
